US07759337B2
Synthesis of 3-(1-(isopropylamino)phthalazin-6-yl)-N,4-dimethylbenzamide
A solution of 3-(1-(isopropylamino)phthalazin-6-yl)-4-methylbenzoic acid (0.22 g, 0.7 mmol) in DMF (2 mL) at RT was treated with a 2 M solution of methylamine (2 mL, 3 mmol), and HATU (0.4 g, 1 mmol). The mixture was stirred at RT for 15 h. The mixture was diluted with 100 mL DCM, washed with 20 mL sat. NaHCO3, dried over anhydrous Na2SO4, concentrated in vacuo and purified by column eluting with 2-3% 2M ammonia MeOH/DCM to give the title compound. MS (ES+): 335 (M+H)+.

reactant | 3-(1-(isopropylamino)phthalazin-6-yl)-4-methylbenzoic acid | 0.7 mmol, 0.22 g | C(C)(C)NC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)O)C=CC1C | C19H19N3O2
reactant | methylamine | 3 mmol, 2 mL | CN | CH5N
reactant | HATU | 1 mmol, 0.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-(isopropylamino)phthalazin-6-yl)-N,4-dimethylbenzamide | C(C)(C)NC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC)C=CC1C | C20H22N4O
